US04174405
A solution of 40 g (0.250 mole) of 2-phenylthiophene in 200 ml of carbon tetrachloride was treated at room temperature with 45 g (0.252 mole) of p-chlorobenzenesulfenyl chloride. Iron powder (0.1 g) was added and the reaction mixture was allowed to stand for seven days at room temperature. Filtration removed a small amount of insoluble material. Evaporation of the filtrate gave a residue of 79.8 g of crude product, m.p. 85°-87° C. Recrystallization of the residue from 400 ml of absolute ethanol gave 40 g (53%) of 2-(p-chlorophenylthio)-5-phenylthiophene, m.p. 101°-103° C.

reactant | 2-phenylthiophene | 0.250 mole, 40 g | C1(=CC=CC=C1)C=1SC=CC1 | C10H8S
reactant | p-chlorobenzenesulfenyl chloride | 0.252 mole, 45 g | ClC1=CC=C(C=C1)SCl | C6H4Cl2S
solvent | carbon tetrachloride | 200 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | Iron | 0.1 g | [Fe] | Fe
product | 2-(p-chlorophenylthio)-5-phenylthiophene | 40 g, 53% | ClC1=CC=C(C=C1)SC=1SC(=CC1)C1=CC=CC=C1 | C16H11ClS2
